US08247576B2
47C {2-(4-Bromo-phenyl)-2-[4-(pyrazin-2-yloxy)-phenyl]-ethyl}-methyl-amine
A solution of [2-(4-Bromo-phenyl)-2-(4-hydroxy-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester (125 mg, 0.31 mmol), 2-chloropyrazine (35.2 mg, 0.31 mmol) and K2CO3 (213 mg, 1.54 mmol) in dimethylformamide (8 ml) was heated to 100° C. for 17 hours. Upon cooling, the solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and saturated NaHCO3 solution. The organic layer was dried (MgSO4), filtered and concentrated. The crude product was then treated with saturated HCl in diethyl ether (15 ml) and stirred at room temperature for 72 hours. The solvent was then removed under reduced pressure and the crude product was purified by Phenomenex_Strata_SCX column chromatography eluting with methanol followed by 2N ammonia in methanol to afford the desired product (82 mg). LC/MS: (PS-B3) Rt 3.17 [M+H]+ 384.

reactant | [2-(4-Bromo-phenyl)-2-(4-hydroxy-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 0.31 mmol, 125 mg | C(C)(C)(C)OC(N(C)CC(C1=CC=C(C=C1)O)C1=CC=C(C=C1)Br)=O | C20H24BrNO3
reactant | 2-chloropyrazine | 0.31 mmol, 35.2 mg | ClC1=NC=CN=C1 | C4H3ClN2
reactant | K2CO3 | 1.54 mmol, 213 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | {2-(4-Bromo-phenyl)-2-[4-(pyrazin-2-yloxy)-phenyl]-ethyl}-methyl-amine | 82 mg | BrC1=CC=C(C=C1)C(CNC)C1=CC=C(C=C1)OC1=NC=CN=C1 | C19H18BrN3O
